US05831115
4-Benzyloxy-cis-2-butene-1-carboxaldehyde
The compound resulting from Example 17A in THF is added dropwise to a -70° C. solution containing oxalyl chloride, DMSO and methylene chloride. After addition, the mixture is stirred 45 minutes at -70° C., then added dropwise, maintaining the internal temperature below -50° C., triethylamine in methylene chloride. The mixture is then warmed to 0° C. and 10% citric acid is added. The layers are separated and the organic layer is washed with 10% sodium bicarbonate and 10% sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford the title compound.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Benzyloxy-cis-2-butene-1-carboxaldehyde | C(C1=CC=CC=C1)OC\C=C/CC=O | C12H14O2
